US05055223
A mixture of 6.5 g of 4-(4-pentylcyclohex-1-enyl)-phenyl-sulfur pentafluoride, 0.5 g of palladium-on-active charcoal (1%) and 40 ml of toluene is hydrogenated at room temperature under normal pressure until saturation is reached. Removing the solvent by distillation and working up in the customary manner gives 4-(trans-4-pentylcyclohexyl)-phenyl-sulfur pentafluoride.

reactant | 4-(4-pentylcyclohex-1-enyl)-phenyl-sulfur pentafluoride | 6.5 g | C(CCCC)C1CC=C(CC1)C1=CC=C(C=C1)S(F)(F)(F)(F)F | C17H23F5S
catalyst | palladium | 0.5 g | [Pd] | Pd
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(trans-4-pentylcyclohexyl)-phenyl-sulfur pentafluoride | C(CCCC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)S(F)(F)(F)(F)F | C17H25F5S
